US07897601B2
To a solution of 4-chloro iodobenzene (25 g) in 400 mL CH2Cl2 at room temperature was added propargyl amine (13.5 mL), diisopropyl amine (37 mL), CuI (4 g) and Pd(PPh3)2Cl2 (3.7 g). The mixture was stirred overnight at room temperature, diluted with 600 mL EtOAc and filtered through a CELITE pad to remove insoluble materials. The solution washed with water, brine, dried over MgSO4, concentrated and purified by chromatography to provide 14.1 g of 3-(4-chloro-phenyl)-prop-2-ynylamine. MS: m/e 166.1 (MH+)

reactant | 4-chloro iodobenzene | 25 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | propargyl amine | 13.5 mL | C(C#C)N | C3H5N
reactant | diisopropyl amine | 37 mL | C(C)(C)NC(C)C | C6H15N
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 4 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 3.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-chloro-phenyl)-prop-2-ynylamine | 14.1 g | ClC1=CC=C(C=C1)C#CCN | C9H8ClN
